US06699891B1
In a mixture of 5 ml of 2-propanol and 5 ml of water, 378 mg of 4-t-butylsulfinylamino-1-ethoxycarbonyl piperidine was suspended and 1.77 g of barium hydroxide was added. The mixture was refluxed with stirring and heating for 4 hours. The mixture was diluted with methanol and the insoluble material was filtered off. The solvent was removed under reduced pressure to give 4-t-butylsulfinylaminopiperidine. Without purification, the obtained material was dissolved in 5 ml of THF, and 984 mg of N-phenoxycarbonyl-4-butyl aniline and 236 mg of diisopropyl ethylamine were added, followed by stirring at room temperature overnight. An aqueous solution of potassium hydrogen sulfate was added to the mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate anhydride. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography to give 291 mg of 4-t-butylsulfinylaminopiperidine-1-carboxlic acid(4-t-butylphenyl)amide.

reactant | 4-t-butylsulfinylamino-1-ethoxycarbonyl piperidine | 378 mg | C(C)(C)(C)S(=O)NC1CCN(CC1)C(=O)OCC | C12H24N2O3S
reactant | barium hydroxide | 1.77 g | [OH-].[Ba+2].[OH-]
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
solvent | water | 5 ml | O | H2O
solvent | methanol | CO | CH4O
product | 4-t-butylsulfinylaminopiperidine | C(C)(C)(C)S(=O)NC1CCNCC1 | C9H20N2OS
